US04956371
N-(3,4-Dimethoxyphenylacetyl)-2-phenylethylamine (B1).
A solution of 3,4-dimethoxyphenylacetic acid (17.1 g, 0.090 mol) and carbonyldiimidazole (14.6 g, 0.090 mol) in THF (200 ml) was stirred for 2.5 h in a flask fitted with a drying tube. To this solution was added 2-phenylethylamine (10.9 g, 0.090 mol) in THF (50 ml). After 1 h the THF was evaporated and the residue was treated with water (200 ml) and filtered. The crude amide was washed with water and recrystallized from mixture of 200 ml of methanol and 100 ml of water with a charcoal treatment to afford 21.6 g (80.3%) of the title compound mp 123-124°. A second crop (2.1 g, 7.8%) was obtained after concentrating the mother liquors.

reactant | 3,4-dimethoxyphenylacetic acid | 0.090 mol, 17.1 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | carbonyldiimidazole | 0.090 mol, 14.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-phenylethylamine | 0.090 mol, 10.9 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(3,4-Dimethoxyphenylacetyl)-2-phenylethylamine | 21.6 g, 80.3% | COC=1C=C(C=CC1OC)CC(=O)NCCC1=CC=CC=C1 | C18H21NO3
